US05990116
W) 3-(2,6-Dimethoxybenzyl)-6-hydroxy-3H-quinazolin-4-one
76 mg of sodium hydride (80% in mineral oil) are added to a suspension of 400 mg of 6-hydroxy-3H-quinazolin-4-one in 20 ml of dry dimethylformamide. After stirring for 30 minutes at room temperature, 560 mg of 2,6-dimethoxybenzylbromide are added, and stirring is continued overnight. The solvent is distilled off in vacuo, and the residue partitioned between aqueous pH7-buffer solution and ethyl acetate. The organic phase is separated, dried over magnesium sulfate and evaporated in vacuo. Silica gel chromatography yields a minor amount of the N,O-bis-alkylated product followed by the pure title compound as colourless crystals. mp: 243-245°.

reactant | sodium hydride | 76 mg | [H-].[Na+]
reactant | 6-hydroxy-3H-quinazolin-4-one | 400 mg | OC=1C=C2C(NC=NC2=CC1)=O | C8H6N2O2
reactant | 2,6-dimethoxybenzylbromide | 560 mg | COC1=C(CBr)C(=CC=C1)OC | C9H11BrO2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(2,6-Dimethoxybenzyl)-6-hydroxy-3H-quinazolin-4-one | COC1=C(CN2C=NC3=CC=C(C=C3C2=O)O)C(=CC=C1)OC | C17H16N2O4
